US06911548B2
Preparation of 5-cyanophthalide.
To a suspension of 4,4-dimethyl-2-(1-oxo-1,3-dihydroisobenzofuran-5-yl)oxazoline (23.1 g, 0.1 mol) in thionyl chloride (36 mL) is slowly added N,N-dimethylformamide (5 ml). The solution is heated at reflux for 1 hour and then allowed to cool to room temperature over 3 hours. Then toluene (150 mL) is added and the suspension is filtered and washed with toluene (2×50 mL). The wet crystals are taken into deionized water (150 mL) and the pH is adjusted to 8.0 with 25% aqueous ammonia. The solid is filtered and washed with deionized water (2×50 mL) and dried at 60° C. under reduced pressure. Yield: 11.9 g (75%) of an off-white product having a purity (HPLC, peak area)=92%. An analytical pure sample is obtained by crystallisation from acetic acid or toluene. 1H NMR (DMSO d-6, 500 MHz): 5.48 (2H, s), 8.04 (2H, s+s), 8.22 (1H, s).

reactant | 4,4-dimethyl-2-(1-oxo-1,3-dihydroisobenzofuran-5-yl)oxazoline | 0.1 mol, 23.1 g | CC1(N=C(OC1)C=1C=C2COC(C2=CC1)=O)C | C13H13NO3
reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
reactant | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
solvent | thionyl chloride | 36 mL | S(=O)(Cl)Cl | Cl2OS
product | 5-cyanophthalide | C(#N)C=1C=C2COC(=O)C2=CC1 | C9H5NO2
